US05688997
Allyl4-(Hydroxymethyl)-3-Nitrobenzoate
In a 100 mL round bottom flask was placed 4-hydroxymethyl-3-nitrobenzoic acid (1.97 g, 10 mmol). Allyl alcohol (20 mL) was added, followed by p-toluenesulfonic acid (0.190 g, 1 mmol). The mixture was heated to reflux for 24 hr., at which time all the volatiles were removed in vacuo. The residue was taken up in EtOAc and washed with sat'd KHCO3. The organic layer was dried over MgSO4 and concentrated to afford the title compound as a cream colored solid; 2.4 g (100%).

reactant | 4-hydroxymethyl-3-nitrobenzoic acid | 10 mmol, 1.97 g | OCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | p-toluenesulfonic acid | 1 mmol, 0.190 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | Allyl alcohol | 20 mL | C(C=C)O | C3H6O
product | Allyl4-(Hydroxymethyl)-3-Nitrobenzoate | C(C=C)OC(C1=CC(=C(C=C1)CO)[N+](=O)[O-])=O | C11H11NO5
